US07981914B2
3-(3-Methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid (140 mg) and dissolved in dry NMP (15 mL), and CDI (80 mg, 0.49 mmol) was added. The reaction mixture was stirred for 40 minutes, and then 2-(4-fluorophenyl)-ethylamine (0.16 mL, 1.22 mmol) was added. The reaction mixture was stirred for 24 hours at room temperature, and then poured into 30 mL water. The resulting mixture was extracted with EtOAc, and the combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified via flash chromatography using EtOAc/hexanes (30%-100%) to give 15 mg of N-[2-(4-fluoro-phenyl)-ethyl]-3-(3-methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzamide, MS (M+H)=419.

reactant | 3-(3-Methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid | 140 mg | COC=1C(=NC=CC1)C=1C=C(C(=O)O)C=C(C1)N1N=NN=C1 | C14H11N5O3
reactant | CDI | 0.49 mmol, 80 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(4-fluorophenyl)-ethylamine | 1.22 mmol, 0.16 mL | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | water | 30 mL | O | H2O
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | N-[2-(4-fluoro-phenyl)-ethyl]-3-(3-methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzamide | 15 mg | FC1=CC=C(C=C1)CCNC(C1=CC(=CC(=C1)N1N=NN=C1)C1=NC=CC=C1OC)=O | C22H19FN6O2
